US06632901B2
Preparation of (tetramethylcyclopentadienyl)(propylcyclopentadienyl) zirconium difluoride
To a yellow solution of (tetramethylcyclopentadienyl)(propylcyclopentadienyl) zirconium dichloride [(Me4Cp)(PrCp)ZrCl2] (1.00 g, 2.47 mmol, 1.00 eq.) in dichloromethane (10 mL) was added tributyltin fluoride (1.60 g, 5.18 mmol, 2.09 eq.). The reaction quickly lightened, becoming almost colorless with a small amount of tributyltin fluoride still visible. The reaction was stirred 1 h and was then filtered to give a colorless solution and a small amount of white solid. The solution was evaporated in vacuo, leaving a damp, white solid. Pentane (15 mL) was added and the mixture was cooled to −35° C. The mixture was filtered, and resulting white solid was washed with pentane (3×3 mL) cooled to −35° C. The white solid was dried in vacuo to yield 0.88 g (96%). 1H NMR(CD2Cl2): δ0.92 (t, 3H, CH2CH2CH3), 1.55 (m, 2H, CH2CH2CH3), 1.82 (s, 6H, Me), 199 (s, 6H, Me), 2.42 (t, 2H, CH2CH2CH3), 5.93 (s, 1H, ring-H), 5.96 (br m, 2H, ring-H), 6.17 (m, 2H, ring-H). 19F NMR(CD2Cl2): δ17.5 (s).

reactant | (tetramethylcyclopentadienyl)(propylcyclopentadienyl) zirconium dichloride | 2.47 mmol, 1.00 g, 1.00 eq. | [Cl-].[Cl-].CC=1C(=C(C(C1)(C)[Zr+2]C1(C=CC=C1)CCC)C)C
reactant | tributyltin fluoride | 5.18 mmol, 1.60 g, 2.09 eq. | C(CCC)[Sn](CCCC)(CCCC)F
reactant | Pentane | 15 mL | CCCCC | C5H12
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (tetramethylcyclopentadienyl)(propylcyclopentadienyl) zirconium difluoride | [F-].[F-].CC=1C(=C(C(C1)(C)[Zr+2]C1(C=CC=C1)CCC)C)C | InChI=1S/C9H13.C8H11.2FH.Zr/c1-6-5-7(2)9(4)8(6)3;1-2-5-8-6-3-4-7-8;;;/h5H,1-4H3;3-4,6-7H,2,5H2,1H3;2*1H;/q;;;;+2/p-2
